US09035051B1
6-Chloro-5-iodo-2-methylpyrimidin-4-amine
Combine 6-chloro-2-methylpyrimidin-4-amine (708 g, 4.93 mol) and MeOH (7.08 L) in a 20 L round bottom flask equipped with a mechanical stirrer. Cool to 0-5° C. Add iodine monochloride (4.806 kg, 29.6 mol) dissolved in MeOH (6 L) using an addition funnel over a period of 1 h. Warm the reaction mixture to RT and stir at RT for 16 h. Cool the reaction mixture to 0-5° C. and add sodium sulfite (46 L, 20% aqueous solution). Filter the resulting solid and wash with water (2 L) followed by hexane (3 L). Dry the solid under vacuum to afford the title compound as a white solid (1061 g, 80%). LC-ES/MS m/z 269.9 (M+1).

reactant | 6-chloro-2-methylpyrimidin-4-amine | 4.93 mol, 708 g | ClC1=CC(=NC(=N1)C)N | C5H6ClN3
reactant | iodine monochloride | 29.6 mol, 4.806 kg | ICl | ClI
reactant | sodium sulfite | 46 L | S(=O)([O-])[O-].[Na+].[Na+]
solvent | MeOH | 6 L | CO | CH4O
solvent | MeOH | 7.08 L | CO | CH4O
product | 6-Chloro-5-iodo-2-methylpyrimidin-4-amine | 1061 g, 80% | ClC1=C(C(=NC(=N1)C)N)I | C5H5ClIN3
